US07423159B2
A mixture of 3-methyl-5-(4-nitrobenzylidene)-1,3-thiazolidine-2,4-dione (1.0 g), 5% palladium carbon (1.0 g) and tetrahydrofuran (150 mL) was subjected to catalytic reduction under hydrogen pressure of 5.0 kgf·cm−2. The catalyst was removed by filtration, and the filtrate was concentrated to give 5-(4-aminobenzyl)-3-methyl-1,3-thiazolidine-2,4-dione as colorless crystals (0.71 g, yield 79%). Recrystallization thereof from ethyl acetate-hexane gave colorless prism crystals. melting point: 91-92° C.

reactant | 3-methyl-5-(4-nitrobenzylidene)-1,3-thiazolidine-2,4-dione | 1.0 g | CN1C(SC(C1=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H8N2O4S
catalyst | palladium carbon | 1.0 g | [C].[Pd]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5-(4-aminobenzyl)-3-methyl-1,3-thiazolidine-2,4-dione | 0.71 g, yield 79% | NC1=CC=C(CC2C(N(C(S2)=O)C)=O)C=C1 | C11H12N2O2S
